US04512924
10.7 g of trimethylsilyl bromide were added dropwise at room temperature over a period of 1 hour to 8.5 g of dimethyl(3-phenylpropionyl)phosphonate. The mixture was then stirred for a further 1 hour and then evaporated at 30° C./0.1 mm Hg to give 12.5 g of bis(trimethylsilyl)-(3-phenylpropionyl)phosphonate in the form of a pale yellow oil. This oil was used in the next step without further purification.

reactant | trimethylsilyl bromide | 10.7 g | C[Si](C)(C)Br | C3H9BrSi
reactant | dimethyl(3-phenylpropionyl)phosphonate | COP(OC)(=O)C(CCC1=CC=CC=C1)=O | C11H15O4P
product | bis(trimethylsilyl)-(3-phenylpropionyl)phosphonate | 12.5 g | C[Si](C)(C)OP(O[Si](C)(C)C)(=O)C(CCC1=CC=CC=C1)=O | C15H27O4PSi2
